US03984465
Step G: (1-Oxo-2,2,3-trimethyl-6,7-dichloro-5-indanyloxy)acetic Acid
A mixture of 2,2,3-trimethyl-5-hydroxy-6,7-dichloro-1-indanone (6.1 g., 0.025 mole), iodoacetic acid (5.58 g., 0.03 mole) and potassium carbonate (4.14 g., 0.03 mole) in acetone (80 ml.) is refluxed for 20 hours. The acetone is evaporated and the residue is dissolved in water and acidified with hydrochloric acid. The (1-oxo-2,2,3-trimethyl-6,7-dichloro-5-indanyloxy)acetic acid which separates is filtered, rinsed with water and dried.

reactant | 2,2,3-trimethyl-5-hydroxy-6,7-dichloro-1-indanone | 0.025 mole, 6.1 g | CC1(C(C2=C(C(=C(C=C2C1C)O)Cl)Cl)=O)C | C12H12Cl2O2
reactant | iodoacetic acid | 0.03 mole, 5.58 g | ICC(=O)O | C2H3IO2
reactant | potassium carbonate | 0.03 mole, 4.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | (1-Oxo-2,2,3-trimethyl-6,7-dichloro-5-indanyloxy)acetic Acid | O=C1C(C(C2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)C)(C)C | C14H14Cl2O4
